US05484689
Phenylglyoxal monohydrate (304 mg, 2 mM) and tert-butylbenzene (0.62 ml, 4 mM) were dissolved in dichloroethane (2 ml), titanium tetrachloride (0.33 ml, 3 mM) was added, and reacted at room temperature for 2.5 hours. Using the same procedure as in Example 1, 4'-tert-butylbenzoin was obtained as crystal (216.9 mg, 40.5% yield).

reactant | Phenylglyoxal monohydrate | 2 mM, 304 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | tert-butylbenzene | 4 mM, 0.62 ml | C(C)(C)(C)C1=CC=CC=C1 | C10H14
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
catalyst | titanium tetrachloride | 3 mM, 0.33 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 4'-tert-butylbenzoin | C(C)(C)(C)C1=CC=C(C(C(C2=CC=CC=C2)=O)O)C=C1 | C18H20O2
